US08461134B2
(Z)-2,2,2-Trifluoro-N-(4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-3-((2-oxodihydrofuran-3(2H)-ylidene)methyl)phenyl)acetamide (200 mg) was hydrogenated with Pd/C (10%, 50 mg) in MeOH (20 ml) at 30 psi for 2 hrs. The reaction mixture was filtered, concentrated in reduced pressure to dryness. The crude product was treated with DCM to give 2,2,2-trifluoro-N-(4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-3-((2-oxotetrahydrofuran-3-yl)methyl)phenyl)acetamide as a solid. 1H NMR (400 MHz, CD3OD) δ (ppm): 7.92 (d, J=8.6 Hz, 1H), 7.75 (d, J=2.4 Hz, 1H), 7.64 (dd, J=8.2, 2.4 Hz, 1H), 7.28 (s, 1H), 7.22 (d, J=8.2 Hz, 1H), 7.17 (dd, J=8.2, 2.0 Hz, 1H), 4.95 (s, 2H), 4.36 (dt, J=8.8, 2.8 Hz, 1H), 4.19 (m, 1H), 3.53 (m, 1H), 3.06 (m, 2H), 2.22 (m, 1H), 2.04 (m, 1H). MS (ESI) m/z=497 (M−1).

reactant | (Z)-2,2,2-Trifluoro-N-(4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-3-((2-oxodihydrofuran-3(2H)-ylidene)methyl)phenyl)acetamide | 200 mg | FC(C(=O)NC1=CC(=C(C=C1)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O)\C=C\1/C(OCC1)=O)(F)F | C20H16BF3N2O7S
solvent | MeOH | 20 ml | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 2,2,2-trifluoro-N-(4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-3-((2-oxotetrahydrofuran-3-yl)methyl)phenyl)acetamide | FC(C(=O)NC1=CC(=C(C=C1)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O)CC1C(OCC1)=O)(F)F | C20H18BF3N2O7S
